US08039514B2
(Step A) Synthesis of 1-bromo-3-chloro-5-hydroxysulfonylbenzene
1,3-Dibromo-5-chlorobenzene (WAKO, 5.98 g) was dissolved in ether (200 mL), and added with 1.6M n-butyl lithium n-hexane solution (KANTO, 15.2 mL) and liquefied sulfur dioxide (9.7 mL) at −70° C. After being allowed to warm to room temperature, the mixture was stirred for 5 hours. The solvent was distilled off under reduced pressure to obtain the target compound as a crude product. LCMS Method B, retention time 0.83 minutes, (ES−) 254.9

reactant | 1,3-Dibromo-5-chlorobenzene | 5.98 g | BrC1=CC(=CC(=C1)Cl)Br | C6H3Br2Cl
reactant | n-butyl lithium n-hexane | 1.6M, 15.2 mL | CCCCCC.C(CCC)[Li]
reactant | sulfur dioxide | 9.7 mL | S(=O)=O | O2S
reactant | ether | 200 mL | CCOCC | C4H10O
product | 1-bromo-3-chloro-5-hydroxysulfonylbenzene | BrC1=CC(=CC(=C1)S(=O)(=O)O)Cl | C6H4BrClO3S
